US09290487B2
Step 1 Synthesis of 3-{[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]methyl}benzoic acid
DMF (125 mL) was added to 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (8.46 g, 38 mmol), methyl 3-(bromomethyl)benzoate (8.8 g, 38 mmol), and potassium carbonate (10.6 g, 77 mmol), and stirred at room temperature overnight. The resultant was diluted with ethyl acetate, washed with water and saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure, and to the resulting residue, methanol (150 mL), water (30 mL), and lithium hydroxide (4.8 g, 114 mmol) were added, and stirred at room temperature overnight. After the solvent was distilled away under reduced pressure, the resultant was diluted with ethyl acetate, then washed with 1 N hydrochloric acid and saturated brine, and dried over anhydrous magnesium sulfate. After the solvent was distilled away under reduced pressure, the solid was collected by filtration.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 38 mmol, 8.46 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
reactant | methyl 3-(bromomethyl)benzoate | 38 mmol, 8.8 g | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | potassium carbonate | 77 mmol, 10.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | lithium hydroxide | 114 mmol, 4.8 g | [OH-].[Li+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 30 mL | O | H2O
solvent | methanol | 150 mL | CO | CH4O
solvent | DMF | 125 mL | CN(C)C=O | C3H7NO
product | 3-{[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]methyl}benzoic acid | CC1(OB(OC1(C)C)C1=CC=C(OCC=2C=C(C(=O)O)C=CC2)C=C1)C | C20H23BO5
